US07041681B2
3-(4-hydroxy-phenyl)-2-isopropylamino-1-[3-(4-phenyl-1H-imidazol-2-yl)-3,4-dihydro-1H-isoquinolin-2-yl]-propan-1-one
3-(4-tert-Butoxy-phenyl)-2-isopropylamino-1-[3-(4-phenyl-1H-imidazol-2-yl)-3,4-dihydro-1H-isoquinolin-2-yl]-propan-1-one (0.086 g, 0.16 mmol) was added to ice cooled trifluoroacetic acid (3 mL). After 1.5 hour the reaction was concentrated under reduced pressure to give a clear oil. This material was purified via a Gilson preparative HPLC resulting in the isolation of desired product 3-(4-hydroxy-phenyl)-2-isopropylamino-1-[3-(4-phenyl-1H-imidazol-2-yl)-3,4-dihydro-1H-isoquinolin-2-yl]-propan-1-one as a white solid after lyophilization, which proved 100% pure by HPLC at 254 and 214 nm, (LC/MS; Measured MW (MH+): 481).

reactant | 3-(4-tert-Butoxy-phenyl)-2-isopropylamino-1-[3-(4-phenyl-1H-imidazol-2-yl)-3,4-dihydro-1H-isoquinolin-2-yl]-propan-1-one | 0.16 mmol, 0.086 g | C(C)(C)(C)OC1=CC=C(C=C1)CC(C(=O)N1CC2=CC=CC=C2CC1C=1NC=C(N1)C1=CC=CC=C1)NC(C)C | C34H40N4O2
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(4-hydroxy-phenyl)-2-isopropylamino-1-[3-(4-phenyl-1H-imidazol-2-yl)-3,4-dihydro-1H-isoquinolin-2-yl]-propan-1-one | OC1=CC=C(C=C1)CC(C(=O)N1CC2=CC=CC=C2CC1C=1NC=C(N1)C1=CC=CC=C1)NC(C)C | C30H32N4O2
